US04070491
PREPARATION OF 2,4-DIMETHYL-2-PHENYL-DIHYDROPYRAN
Into a one-liter three neck flask equipped with stirrer, condenser, Barrett Trap, thermometer, addition funnel and heating mantle is placed 288 gms (2.4 moles) of acetophenone, 150 ml of cyclohexane, 1 g of concentrated sulfuric acid and 1 g of Ionol®. The resulting mixture is heated to reflux temperature (94° C). Then 208 gms (2.4 moles) of 3-methyl-3-buten-1-ol is added, dropwise from the addition funnel, to the reaction mass with stirring while maintaining the reaction mass at reflux. Water of reaction formed is azeotroped over into the Barrett Trap. The reaction mass is heated for a period of 10 hours, during which time 24 ml water collected. At the end of the 10 hour period, the reaction is cooled to room temperature and 2 gms of a 50% sodium hydroxide solution are added. The reaction mass is then rushed over using a 2 inches splash column after adding thereto 10 gms Primol® and 0.1 gms Ionol®. Fractions collected and fractionation data for this rush over is as follows:

reactant | acetophenone | 2.4 moles, 288 gms | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
reactant | Ionol | 1 g | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
reactant | 3-methyl-3-buten-1-ol | 2.4 moles, 208 gms | CC(CCO)=C | C5H10O
solvent | Water | O | H2O
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
product | 2,4-DIMETHYL-2-PHENYL-DIHYDROPYRAN | CC1(OC=CC(C1)C)C1=CC=CC=C1 | C13H16O
